US09023858B2
D) 7-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one
A mixture of methyl 2-amino-6-(hydroxymethyl)pyridine-3-carboxylate (296 mg), tert-butyl(chloro)dimethylsilane (298 mg), imidazole (218 mg) and N,N-dimethylformamide (8 ml) was stirred at room temperature for 15 min. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a white solid. The white solid was added to a mixture of 1-isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene (670 mg), sodium hydride (60% in oil, 132 mg) and N,N-dimethylformamide (15 ml) under ice-cooling, and the mixture was stirred for 30 min. The reaction mixture was acidified with 1M hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (547 mg) as a white solid.

reactant | methyl 2-amino-6-(hydroxymethyl)pyridine-3-carboxylate | 296 mg | NC1=NC(=CC=C1C(=O)OC)CO | C8H10N2O3
reactant | tert-butyl(chloro)dimethylsilane | 298 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 218 mg | N1C=NC=C1 | C3H4N2
reactant | 1-isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene | 670 mg | N(=C=S)C1=CC=C(C=C1)OCC(F)(F)F | C9H6F3NOS
reactant | sodium hydride | 132 mg | [H-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 7-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one | 547 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=CC2=C(NC(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)=S)N1 | C22H26F3N3O3SSi
